US04837225
2,5-Dimethyl-1-(2-acetylaminoethyl)pyrrole
171.2 g (1.5 mol) of acetonylacetone and 153.2 g (1.5 mol) of 1-acetylethylenediamine are heated under reflux in 1.8 l of ethanol for 3 h. The reaction mixture is concentrated, and the residue is recrystallized from toluene. Yield: 259.3 g (96% of theory), Melting point: 106°-107° C. Elemental analysis: C10H16N2O (180.25) calculated: C 66.6 H 8.9 N 15.5 0 8.9 found: C 66.8 H 8.8 N 15.6 0 8.9

reactant | acetonylacetone | 1.5 mol, 171.2 g | C(C(=O)C)CC(C)=O | C6H10O2
reactant | 1-acetylethylenediamine | 1.5 mol, 153.2 g | C(C)(=O)C(CN)N | C4H10N2O
reactant | ethanol | 1.8 l | C(C)O | C2H6O
product | 2,5-Dimethyl-1-(2-acetylaminoethyl)pyrrole | CC=1N(C(=CC1)C)CCNC(C)=O | C10H16N2O
